US08703951B2
To a solution of 3-(4-fluorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile (8.1 g, 28.0 mmol) in dichloromethane (50 mL) was added dropwise 8 mL of tetrafluoroboric acid (HBF4). The solution was stirred for 3 h at room temperature. The brown precipitates appeared were collected by filtration and the filter cake was washed with ether. The solid salt was added to a solution of dimethyl acetylenedicarboxylate (12.2 g, 84.0 mmol) in DMF (40 mL) and then warmed at 35° C. for 14 h. The reaction mixture was concentrated in vacuo and the residue was crystallized from methanol to give dimethyl 1-(4-fluorophenyl)benzo[d]pyrrolo[2,1-b]thiazole-2,3-dicarboxylate, 2.5 g (23%); mp 186-187° C. 1H NMR (DMSO-d6) δ 3.63 (3H, s, COOMe), 3.83 (3H, s, COOMe), 6.78-6.80 (1H, m, ArH), 7.28-7.30 (1H, m, ArH), 7.30-7.44 (3H, m, 3×ArH), 7.62-7.66 (2H, m, 2×ArH), 8.03-8.05 (1H, m, ArH). Anal. Calcd. for (C20H14FNO4S): C, 62.65; H, 3.68; N, 3.65; S, 8.36. Found: C, 62.68; H, 3.46; N, 3.62; S, 8.76.

reactant | 3-(4-fluorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | 28.0 mmol, 8.1 g | FC1=CC=C(C(=O)N2C(SC3=C2C=CC=C3)C#N)C=C1 | C15H9FN2OS
reactant | tetrafluoroboric acid | 8 mL | F[B-](F)(F)F.[H+]
reactant | dimethyl acetylenedicarboxylate | 84.0 mmol, 12.2 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | dimethyl 1-(4-fluorophenyl)benzo[d]pyrrolo[2,1-b]thiazole-2,3-dicarboxylate | FC1=CC=C(C=C1)C1=C(C(=C2SC3=C(N21)C=CC=C3)C(=O)OC)C(=O)OC | C20H14FNO4S
